US04374829
A solution of L-alanyl-L-proline (167 mg) and benzyl 2-oxo-4-phenylbutyrate (1.20 g) in 5 ml of ethanol is stirred at room temperature with 3 g of powdered molecular sieves, type 4A. Sodium cyanoborohydride (75 mg) is then added in portions over the course of three hours. The product is purified by absorption on strong cation exchange resin and elution with 2% pyridine in water. After passage through a gel filtration (LH-20) column 220 mg of N-(1-benzyloxycarbonyl-3-phenylpropyl)-L-alanyl-L-proline is obtained as a mixture of isomers. Thin layer chromatography on silica gel eluted with 1 EtOAc, 1 n-butanol, 1 H2O, 1 HOAc shows one main post, Rf 0.71. Isomers are separated using reverse phase HPLC to yield N-(1(S)-benzyloxycarbonyl-3-phenylpropyl)-L-alanyl-L-proline.

reactant | L-alanyl-L-proline | 167 mg | N[C@@H](C)C(=O)N1[C@H](C(=O)O)CCC1 | C8H14N2O3
reactant | benzyl 2-oxo-4-phenylbutyrate | 1.20 g | O=C(C(=O)OCC1=CC=CC=C1)CCC1=CC=CC=C1 | C17H16O3
reactant | Sodium cyanoborohydride | 75 mg | C(#N)[BH3-].[Na+]
solvent | ethanol | 5 ml | C(C)O | C2H6O
product | N-(1(S)-benzyloxycarbonyl-3-phenylpropyl)-L-alanyl-L-proline | C(C1=CC=CC=C1)OC(=O)[C@H](CCC1=CC=CC=C1)N[C@@H](C)C(=O)N1[C@H](C(=O)O)CCC1 | C25H30N2O5
